US07932262B2
Step 6. 4-(8-Bromo-6-fluoroquinazolin-2-ylamino)benzensulfonamide
To a 0.4M suspension of 8-bromo-2-chloro-6-fluoroquinazoline in isopropanol was added 4-aminobenzensulfonamide (1 eq). The reaction mixture was heated to 120° C. in an oil bath for 2 days. LCMS showed that reaction was complete under the condition. Ethyl acetate was added to the reaction flask and the suspension was stirred at ambient temperature for 30 min and was filtered. Filter cake was rinsed with hexane and dried in vacuum to give product in 81% yield. ES/MS m/z 397/399 (MH+).

reactant | 8-bromo-2-chloro-6-fluoroquinazoline | BrC=1C=C(C=C2C=NC(=NC12)Cl)F | C8H3BrClFN2
reactant | 4-aminobenzensulfonamide | 1 eq | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(8-Bromo-6-fluoroquinazolin-2-ylamino)benzensulfonamide | 81% yield | BrC=1C=C(C=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N)F | C14H10BrFN4O2S
